US08486970B2
To 700 mg of 2-(6-methoxypyridin-2-yl)ethylamine was added 10 ml of a 47% aqueous hydrogen bromide solution, followed by stirring at 80° C. for 60 hours. After evaporating the solvent, the residue was washed with diethyl ether to obtain 1.21 g of a 6-(2-aminoethyl)pyridin-2(1H)-one hydrobromide as a pale brown solid.

reactant | 2-(6-methoxypyridin-2-yl)ethylamine | 700 mg | COC1=CC=CC(=N1)CCN | C8H12N2O
reactant | hydrogen bromide | Br | BrH
product | 6-(2-aminoethyl)pyridin-2(1H)-one hydrobromide | 1.21 g | Br.NCCC1=CC=CC(N1)=O | InChI=1S/C7H10N2O.BrH/c8-5-4-6-2-1-3-7(10)9-6;/h1-3H,4-5,8H2,(H,9,10);1H
